US06525064B1
N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}1-[(1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonamide
Using the method of Examples 32-46, D-(+)-10-camphorsulfonyl chloride was reacted with 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 565.2720.

reactant | D-(+)-10-camphorsulfonyl chloride | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
reactant | 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C(=NC=2C(=NC(=CC21)C)N)COCC | C14H23N5O
product | N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}1-[(1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonamide | NC1=NC(=CC2=C1N=C(N2CCCCNS(=O)(=O)C[C@@]21C(C[C@@H](CC2)C1(C)C)=O)COCC)C | C24H37N5O4S
